US04147655
Step (a): synthesis of 4-heptanoylphenol.
There are charged to a half-liter reactor 9.4 g. (0.1 mole) of phenol in 150 ml. of nitrobenzene. The contents of the reactor are stirred and the mixture is cooled below 5° C. Then 27 g. (0.2 mole) of AlCl3 is added in small portions over 1/2 hour. The resulting mixture is stirred vigorously and then there is added a solution of 15.5 g. of C6H13COCl (~ 0.011 mole) in 50 ml. of nitrobenzene over an hour while the temperature is kept below 5° C. The mixture is stirred at ambient temperature for 12 hours and then the mixture is poured in 100 g. of ice and 50 ml. of concentrated HCl and stirred for 1/2 hour. The organic fraction is removed by decantation and the aqueous fraction is washed twice with CCl4 (100 ml.). The organic fractions are collected and washed three times with water (to neutrality). The solvent is evaporated under reduced pressure. The organic solution is dried over anhydrous Na2SO4. The solid obtained is recrystallized in benzene. There are obtained 16.9 g. of pure product (yield 82%), melting point: 93° C.

reactant | phenol | 0.1 mole | C1(=CC=CC=C1)O | C6H6O
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | AlCl3 | 0.2 mole | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | C6H13COCl | ~ 0.011 mole | C(CCCCC)C(=O)Cl | C7H13ClO
reactant | HCl | Cl | ClH
product | 4-heptanoylphenol | yield 82% | C(CCCCCC)(=O)C1=CC=C(C=C1)O | C13H18O2
